Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
right sided flank pain
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ y/o female with no significant PMH who is presenting with 
left flank pain 2 days prior to presentation that migrated to 
the right axilla and flank. Endorses mild SOB on going up 
stairs. Patient does note beginning nuvaring 5 weeks prior (she 
is taking it continuously, and had a new one placed 2 weeks 
ago). She took the nuvaring out on the day of admission (she was 
on her ___ day of her menses, which are usually approximately 5 
days, and denies any prior history of menorrhagia).  She saw her 
PCP, ___, CXR, and d-dimer were performed. D-dimer was 
elevated to 3293 with patient sent to ___ ED for further 
evaluation. In the ED vitals were stable. CTA chest was 
performed with Bilateral lobar pulmonary emboli with extension 
to the subsegmental levels noted. Urine HCG negative. She was 
started on a heparin drip and given percocet, and admitted to 
medicine for further management. Vitals stable on transfer. She 
still reported mild pleuritic right flank pain. 

 
Past Medical History:
none
 
Social History:
___
Family History:
sister, mother with ___, mother with history of stroke, 
maternal aunt with breast ___, Paternal GM with lupus. No history 
of miscarriages, blood clots or MIs in family.  

 
Physical Exam:
Vitals-Tc: 98.4 HR: 92 BP: 129/66 98% RA  
General- Alert, oriented, no acute distress  
HEENT- Sclera anicteric, MMM, oropharynx clear  
Neck- supple, JVP not elevated, no LAD  
Lungs- Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV- Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops, mild ttp in right flank  
Abdomen- soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU- no foley  
Ext- warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro- CNs2-12 intact, motor function grossly normal  

 
Pertinent Results:
Labs on admission:

___ 07:55PM BLOOD Neuts-65.8 ___ Monos-9.3 Eos-0.8 
Baso-0.8
___ 07:55PM BLOOD Plt ___
___ 07:55PM BLOOD WBC-5.8 RBC-4.34 Hgb-11.3* Hct-34.6* 
MCV-80* MCH-25.9* MCHC-32.5 RDW-13.8 Plt ___
___ 07:55PM BLOOD Glucose-88 UreaN-12 Creat-0.7 Na-137 
K-3.6 Cl-101 HCO3-25 AnGap-15
___ 07:55PM BLOOD estGFR-Using this

Labs on discharge: 

___ 07:05AM BLOOD WBC-5.7 RBC-4.05* Hgb-10.2* Hct-32.6* 
MCV-81* MCH-25.2* MCHC-31.3 RDW-13.8 Plt ___
___ 07:05AM BLOOD Plt ___
___ 07:05AM BLOOD Glucose-77 UreaN-10 Creat-0.7 Na-139 
K-4.7 Cl-102 HCO3-26 AnGap-16
___ 07:05AM BLOOD Calcium-8.5 Phos-3.8 Mg-2.1

Reports:
CTA chest ___ prelim  
Bilateral lobar pulmonary emboli with extension to the 
subsegmental levels noted. Mild main pulmonary artery 
enlargement. No definite evidence of right heart strain, 
although evaluation with an echocardiogram would be recommended  

 
EKG: sinus at 86, no ST, no TW changes, no q.
transabdominal u/s ___
1. Normal endometrium. 
2. A small cyst or fibroid is incidentally noted on the 
posterior margin of the uterus. 
3. Normal appearance of the ovaries. 
   
Lower extremity ultrasound ___
IMPRESSION: No evidence of deep vein thrombosis in the right or 
left lower extremity.   
  

 
Brief Hospital Course:
___ y/o F with no significant PMH, on nuvaring for birth control, 
presenting with 2 day history of pleuritic flank pain, with CTA 
revealing bilateral pulmonary emboli.  

# Pulmonary embolism: Patient presetned with flank pain. In the 
ED, CTA showing bilateral lobular pulmonary emboli, and mild 
main artery enlargement. Risk factors for PE included birth 
control with nuvaring which was removed during day of admission. 
Patient had not been immobilized, traveling, and does not have 
history of clots. Heparin was started in the ED, and patient was 
changed to Lovenox. LENIs did not reveal a clot. Patient's pain 
was well controlled with tylenol standing and oxycodone prn. She 
also had back spasms that responded well to flexaril. The 
patient has been counseled to find an alternative to hormonal 
birth control in the future. Troponins and CKMB were negative. 
Pat and she was discharged on enoxaparin and coumadin. She has 
an appointment with her PCP ___. 

# Anemia: Patient presented with a crit of 34.6, which went down 
to 31.4 the following day (___). On admission, she was now day 
8 of her period, but her period is usually regular and lasts ___ 
days. She has had no prior history of menorrhagia. A 
transabdominal ultrasound was done, which was reassuring. 
Etiology thought likely ___ withdrawl bleeding from d/c 
Nuvaring. Hct stabilized and pt was switched to Lovenox and 
warfarin as above.

TRANSITIONAL ISSUES
# INR to be checked on ___. Likely ___ month course of 
anticoagulation

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ibuprofen 400 mg PO Q8H:PRN pain  
2. NuvaRing (etonogestrel-ethinyl estradiol) 0.12-0.015 mg/24 hr 
Vaginal daily 

 
Discharge Medications:
1. Warfarin 5 mg PO DAYS (___)  confirmed PE 
RX *warfarin 5 mg 1 tablet(s) by mouth daily Disp #*7 Tablet 
Refills:*0
2. Acetaminophen 1000 mg PO Q8H 
RX *acetaminophen 500 mg 2 tablet(s) by mouth q8 Disp #*84 
Tablet Refills:*0
3. Cyclobenzaprine 5 mg PO TID:PRN spasms 
RX *cyclobenzaprine 5 mg 1 tablet(s) by mouth three times a day 
Disp #*42 Tablet Refills:*0
4. Enoxaparin Sodium 90 mg SC Q12H Start: ___, First Dose: 
Next Routine Administration Time 
RX *enoxaparin 100 mg/mL 90 mg SQ q12 Disp #*8 Syringe 
Refills:*0
5. Naproxen 500 mg PO Q12H 
RX *naproxen 500 mg 1 tablet(s) by mouth q12 Disp #*21 Tablet 
Refills:*0
6. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain  
RX *oxycodone 5 mg ___ tablet(s) by mouth q4 Disp #*84 Tablet 
Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Bilateral pulmonary emboli

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure taking care of you at the ___. You came into 
the hospital with right flank pain after your PCP saw you as an 
outpatient. We did a CT scan of your chest in the ED, which 
revealed blood clots in the bases of your lungs. An EKG of your 
heart was normal. You were given blood thinners and some 
painkillers during your stay in the hospital. 

Please STOP using the Nuvaring. Please discuss with your PCP 
about alternative birth control methods. 
Please START taking warfarin 5mg each day. 
We have provided you with some pain medications which you can 
take as needed.

It is vitally important that you follow up with your PCP at ___ 
on ___ to have your anticoagulation checked.  
 
Followup Instructions:
___